US08293903B2
((1R,4R)-7-fluoro-5-(4-(trifluoromethyl)pyridin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptan-2-yl)((1S,3R)-1-isopropyl-3-((3S,4S)-3-methoxy-tetrahydro-2H-pyran-4-ylamino)cyclopentyl)methanone
2,2,2-trifluoro-N-((1R,3S)-3-((1R,4R,7S)-7-hydroxyl-2-(4-(trifluoromethyl)pyridin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-5-carbonyl)-3-isopropylcyclopentyl)-N-((3S,4S)-3-methoxy-tetrahydro-2H-pyran-4-yl)acetamide (30 mg, 0.057 mmol) in CH2Cl2 (2 ml) was cooled to 0° C. and DAST (0.025 ml, 0.086 mmol) was added to the solution. The reaction mixture was stirred overnight and purified by chromatography (10% EtOAc to 100% MeOH) to yield desired product (16 mg, 32%). LC/MS (M+H)=529.2802 exp, 529.3112 obs; 1H NMR (400 MHz, DMSO-d6) δ ppm 0.67-0.78 (m, 5H) 0.82 (d, J=6.59 Hz, 3H) 1.23 (br. s., 1H) 1.50 (d, J=3.66 Hz, 3H) 1.75 (d, J=4.39 Hz, 2H) 1.94-2.03 (m, 1H) 2.24-2.32 (m, 1H) 2.98 (s, 1H) 3.12 (br. s., 1H) 3.18-3.23 (m, 4H) 3.31-3.34 (m, 1H) 3.40 (d, J=10.98 Hz, 1H) 3.62 (d, J=12.08 Hz, 1H) 3.72 (d, J=10.62 Hz, 3H) 3.80-3.92 (m, 1H) 4.87 (br. s., 1H) 4.90-4.96 (m, 1H) 5.31 (d, J=1.83 Hz, 1H) 5.40-5.46 (m, 1H) 6.86-6.94 (m, 2H) 8.31 (d, J=5.49 Hz, 1H)

reactant | 2,2,2-trifluoro-N-((1R,3S)-3-((1R,4R,7S)-7-hydroxyl-2-(4-(trifluoromethyl)pyridin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-5-carbonyl)-3-isopropylcyclopentyl)-N-((3S,4S)-3-methoxy-tetrahydro-2H-pyran-4-yl)acetamide | 0.057 mmol, 30 mg | FC(C(=O)N([C@@H]1[C@@H](COCC1)OC)[C@H]1C[C@@](CC1)(C(C)C)C(=O)N1[C@@H]2CN([C@H](C1)[C@@H]2O)C2=NC=CC(=C2)C(F)(F)F)(F)F | C28H36F6N4O5
reactant | DAST | 0.086 mmol, 0.025 ml | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | ((1R,4R)-7-fluoro-5-(4-(trifluoromethyl)pyridin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptan-2-yl)((1S,3R)-1-isopropyl-3-((3S,4S)-3-methoxy-tetrahydro-2H-pyran-4-ylamino)cyclopentyl)methanone | 16 mg, 32% | FC1[C@@H]2N(C[C@H]1N(C2)C2=NC=CC(=C2)C(F)(F)F)C(=O)[C@@]2(C[C@@H](CC2)N[C@@H]2[C@@H](COCC2)OC)C(C)C | C26H36F4N4O3
